US06391915B2
A mixture of N-((R)-1-phenylethyl)-((6R)-3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine-hydrobromide (7.67 g), ethyl bromoacetate (3.8 ml), potassium carbonate (17.6 g), and tetrabutylammonium chloride (1.18 g) in a mixture of dichloromethane (80 ml) and water (40 ml) was refluxed for 9 hours. After separation, the organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was dissolved in ethyl acetate (90 ml). To the solution was added 4N hydrogen chloride in ethyl acetate (5.6 ml), and the mixture was stirred at 5° C. for 1 hour. The precipitate was collected, washed with a little amount of ice-cold ethyl acetate, and dried under reduce pressure to afford N-((R)-1-phenylethyl)-((6R)-3-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine hydrochloride (4.99 g).

reactant | N-((R)-1-phenylethyl)-((6R)-3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine-hydrobromide | 7.67 g | Br.C1(=CC=CC=C1)[C@@H](C)N[C@H]1CC2=C(CCC1)C=CC(=C2)O
reactant | ethyl bromoacetate | 3.8 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 17.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 80 ml | ClCCl | CH2Cl2
catalyst | tetrabutylammonium chloride | 1.18 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 40 ml | O | H2O
product | N-((R)-1-phenylethyl)-((6R)-3-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine hydrochloride | 4.99 g | Cl.C1(=CC=CC=C1)[C@@H](C)N[C@H]1CC2=C(CCC1)C=CC(=C2)OCC(=O)OCC | InChI=1S/C23H29NO3.ClH/c1-3-26-23(25)16-27-22-13-12-19-10-7-11-21(14-20(19)15-22)24-17(2)18-8-5-4-6-9-18;/h4-6,8-9,12-13,15,17,21,24H,3,7,10-11,14,16H2,1-2H3;1H/t17-,21-;/m1./s1
